*$
*//-----------------------------------------------------------------------//
*//   Part No.	: HHXD250ARA330ME61G
*//   Date		: 2024/06/27
*//   Version	: 1.0 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C
*//   Model	: RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT  HHXD250ARA330ME61G_20deg-C 1 2
C1 4 2 2.33e-05
C2 5 2 6.73e-06
C3 6 2 3.05e-06
R1 3 4 1.87e-02
R2 4 5 1.74e-01
R3 5 6 3.48e+00
L1 1 3 2.10e-09
.ENDS

*$